US04118742
Six grams (0.035 mole) of 4-amino-3-nitrobenzyl alcohol, 95 ml. of tetrahydrofuran and 0.5 g. of Raney Nickel were hydrogenated at 40 psi at room temperature until 3 moles of hydrogen were absorbed. The catalyst was filtered and the filtrate was evaporated in vacuo to yield 4.83 g. (82 percent yield) of 3,4-diaminobenzyl alcohol, mp. 74°-75° C.

reactant | 4-amino-3-nitrobenzyl alcohol | 0.035 mole, Six grams | NC1=C(C=C(CO)C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | hydrogen | 3 moles | [H][H] | H2
catalyst | Raney Nickel | [Ni] | Ni
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3,4-diaminobenzyl alcohol | 82 percent yield | NC=1C=C(CO)C=CC1N | C7H10N2O
